US09278985B2
4-Bromo-3-fluorophenol (7 g, 0.03665 mol) and potassium carbonate (7.6 g, 0.055 mol) were dissolved in N,N-dimethylformamide (9 mL). 2-Bromo-1,1-diethoxyethane (8.5 mL, 0.055 mol) was added and the reaction mixture was stirred and heated to 135° C. for 7 h. The solvent was removed after the reaction was completed. The residue was dissolved in ethyl acetate and washed with 2M NaOH solution. The organic phase was dried over Na2SO4. The solvent was evaporated to yield 1-bromo-4-(2,2-diethoxyethoxy)-2-fluorobenzene as an oil (11.4 g, 100%).

reactant | 4-Bromo-3-fluorophenol | 0.03665 mol, 7 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | potassium carbonate | 0.055 mol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Bromo-1,1-diethoxyethane | 0.055 mol, 8.5 mL | BrCC(OCC)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | 1-bromo-4-(2,2-diethoxyethoxy)-2-fluorobenzene | 11.4 g, 100% | BrC1=C(C=C(C=C1)OCC(OCC)OCC)F | C12H16BrFO3
